US06583135B2
Preparation of 3-tert-Butyloxycarbonyl-6-(3-chloropropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
Sodium hydride (335 mg, 60%) was added to a solution of 3-tert-butyloxycarbonyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.99 g) and DMF (21.0 mL) at 0° C. The solution was stirred at 0° C. for 30 min and then 1-bromo-3-chloropropane (0.74 mL) was added. The solution was stirred at 0° C. for 1 h and 16 h at room temperature. The solution was diluted with EtOAc, which was washed with water (3×20 mL). The combined aqueous layers were extracted with EtOAc (2×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated. The crude material was purified by chromatography (Biotage, silica gel, 4:1-1:1 hexane:EtOAc) to give 1.38 g of the title compound as an oil: 1H NMR (300 MHz, CDCl3) δ 7.50, 7.10-7.40, 4.28, 3.55-3.82, 3.52, 2.95-3.10, 2.15-2.30, 1.51; MS (ESI) m/z 363 (M+).

reactant | Sodium hydride | 335 mg | [H-].[Na+]
reactant | 3-tert-butyloxycarbonyl-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.99 g | C(C)(C)(C)OC(=O)N1CCC=2NC=3C=CC=CC3C2CC1 | C17H22N2O2
reactant | DMF | 21.0 mL | CN(C)C=O | C3H7NO
reactant | 1-bromo-3-chloropropane | 0.74 mL | BrCCCCl | C3H6BrCl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-tert-Butyloxycarbonyl-6-(3-chloropropyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.38 g | C(C)(C)(C)OC(=O)N1CCC=2N(C=3C=CC=CC3C2CC1)CCCCl | C20H27ClN2O2
